US04386213
64.2 g of hydrazodicarbonamide and 37 g of m-xylylene diamine in 300 ml of N-methyl pyrrolidone are heated with stirring for 4 hours to 175° C. and for 30 hours to 200° C. The solvent is then distilled off in vacuo and the residue is recrystallised from chloroform, giving 58 g (70% of the theoretical) of 1,3-bis-(1,2,4-triazolidine-3,5-dione-4-yl-methyl)-benzene in the form of colourless crystals melting at 244° to 246° C.

reactant | hydrazodicarbonamide | 64.2 g | C(=O)(N)NNC(=O)N | C2H6N4O2
reactant | m-xylylene diamine | 37 g | C1(=CC(=CC=C1)CN)CN | C8H12N2
solvent | N-methyl pyrrolidone | 300 ml | CN1C(CCC1)=O | C5H9NO
product | 1,3-bis-(1,2,4-triazolidine-3,5-dione-4-yl-methyl)-benzene | N1NC(N(C1=O)CC1=CC(=CC=C1)CN1C(NNC1=O)=O)=O | C12H12N6O4
